US06911508B2
Preparation of (Pentamethylcyclopentadienyl)indenylzirconium dichloride. Cp*IndZrCl2
To a yellow suspension of (pentamethylcyclopentadienyl)zirconium trichloride, Cp*ZrCl3, (5.00 g, 15.0 mmol, 1.00 equiv.) in ether (50 mL) was added lithium indenide (1.83 g, 15.0 mmol, 1.00 equiv.). The reaction turned slightly more manila-colored. The mixture was stirred 16 hours and then evaporated in vacuo, leaving yellow solid. The solid was extracted with dichloromethane (30 mL, then 3×5 mL) and the extracts were filtered to give light manila solid and a bright yellow solution. The solution was evaporated in vacuo, leaving yellow crystalline solid. The solid was washed with pentane (20 mL) and dried in vacuo. Yield 5.92 g (96%). 1H NMR(CD2Cl2): δ 2.03 (s, 15H, Me), 6.18 (d, 2H, Ind-H), 6.34 (t, 1H, Ind-H), 7.24 (m, 2H, Ind-H), 7.54 (m, 2H, Ind-H).

reactant | (pentamethylcyclopentadienyl)zirconium trichloride | [Cl-].[Cl-].[Cl-].CC1=C(C(=C(C1(C)[Zr+3])C)C)C
reactant | lithium indenide | 15.0 mmol, 1.83 g, 1.00 equiv. | [CH-]1C=CC2=CC=CC=C12.[Li+]
solvent | ether | 50 mL | CCOCC | C4H10O
product | (Pentamethylcyclopentadienyl)indenylzirconium dichloride | [Cl-].[Cl-].CC1=C(C(=C(C1(C)[Zr+2]C1C=CC2=CC=CC=C12)C)C)C | InChI=1S/C10H15.C9H7.2ClH.Zr/c1-6-7(2)9(4)10(5)8(6)3;1-2-5-9-7-3-6-8(9)4-1;;;/h1-5H3;1-7H;2*1H;/q;;;;+2/p-2
